US06521754B2
N-(4-Methoxy-benzothiazol-2 -yl)-benzamide
Using 2-amino-4-methoxy-benzothiazole and benzoyl chloride in pyridine the title compound was obtained as a white solid (72% yield), MS: m/e=284.1 (M+).

reactant | 2-amino-4-methoxy-benzothiazole | NC=1SC2=C(N1)C(=CC=C2)OC | C8H8N2OS
reactant | benzoyl chloride | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | N-(4-Methoxy-benzothiazol-2 -yl)-benzamide | COC1=CC=CC2=C1N=C(S2)NC(C2=CC=CC=C2)=O | C15H12N2O2S
